US05011833
6-Methyl-6,11-dihydro-11-carbamoyl-dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide
0.9 g (0.027 mol) of 80% sodium hydride are added to 7 g (0.027 mol) of 6-methyl-6,11-dihydro-dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide in 200 ml of dioxane, and the mixture is heated for 30 minutes at 80° C. After cooling, 5.4 g of trichloromethyl chloroformate are added dropwise, with cooling in an ice bath, and the mixture is left to stand overnight. Gaseous NH3 is then introduced up to saturation, the mixture is filtered, and the filtrate is concentrated and diluted with water. This gives a solid which is filtered, washed and dried.

reactant | sodium hydride | 0.027 mol, 0.9 g | [H-].[Na+]
reactant | 6-methyl-6,11-dihydro-dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide | 0.027 mol, 7 g | CN1S(C2=C(NC3=C1C=CC=C3)C=CC=C2)(=O)=O | C13H12N2O2S
reactant | trichloromethyl chloroformate | 5.4 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | NH3 | N | H3N
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 6-Methyl-6,11-dihydro-11-carbamoyl-dibenzo[c,f][1,2,5]thiadiazepine 5,5-dioxide | CN1S(C2=C(N(C3=C1C=CC=C3)C(N)=O)C=CC=C2)(=O)=O | C14H13N3O3S
